US08168654B2
(R)-1-[3-(tert-Butoxycarbonyl-methyl-amino)-propyl]-3-(2-hydroxy-2,2-diphenyl-acetoxy)-1-azonia-bicyclo[2.2.2]octane chloride
(3-Chloro-propyl)-methyl-carbamic acid tert-butyl ester (2.00 g 9.629 mmol) is solubilised in DMF (20 ml) and polystyrene bound DIPEA added, and after a few minutes removed. This solution is then added to a mixture of hydroxy-diphenyl-acetic acid (R)-(1-aza-bicyclo [2.2.2]oct-3-yl) ester (2.1634 g 6.419 mmol) and 200 mg of K2CO3, followed by the addition of sodium iodide (10 mg) and heating at 60° C. for 2 days. 2.5 g Merrifield resin and 100 mg K2CO3 is then added to the mixture and heating resumed at 40° C. for 12 hours. The resin is then removed, and the mixture purified by gradient C18 column chromatography to give the title product.

reactant | (3-Chloro-propyl)-methyl-carbamic acid tert-butyl ester | 9.629 mmol, 2.00 g | C(C)(C)(C)OC(N(C)CCCCl)=O | C9H18ClNO2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | hydroxy-diphenyl-acetic acid (R)-(1-aza-bicyclo [2.2.2]oct-3-yl) ester | 6.419 mmol, 2.1634 g | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)(C2=CC=CC=C2)O)=O | C21H23NO3
reactant | K2CO3 | 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium iodide | 10 mg | [I-].[Na+]
reactant | K2CO3 | 100 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (R)-1-[3-(tert-Butoxycarbonyl-methyl-amino)-propyl]-3-(2-hydroxy-2,2-diphenyl-acetoxy)-1-azonia-bicyclo[2.2.2]octane chloride | [Cl-].C(C)(C)(C)OC(=O)N(CCC[N+]12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)(C2=CC=CC=C2)O)=O)C | InChI=1S/C30H41N2O5.ClH/c1-29(2,3)37-28(34)31(4)18-11-19-32-20-16-23(17-21-32)26(22-32)36-27(33)30(35,24-12-7-5-8-13-24)25-14-9-6-10-15-25;/h5-10,12-15,23,26,35H,11,16-22H2,1-4H3;1H/q+1;/p-1/t23?,26-,32?;/m0./s1
